US08071592B2
(a) Methyl 3-{4-hydroxy-6-oxo-2-[(E)-2-phenylethenyl]-1,6-dihydro-5-pyrimidinyl}propanoate
3-Ethyl 1,1-dimethyl 1,1,3-propanetricarboxylate (23.8 g; 103 mmol) and (2E)-3-phenyl-2-propenimidamide (10.0 g; 68.4 mmol) were combined in MeOH (400 mL), treated with NaOMe in MeOH (31.0 g; 143 mmol) and the solution was stirred at room temperature for 2 days. The solution turned dark, and a dark green solid was filtered off. The solution was concentrated under vacuum, diluted with water, acidified to pH 2 with 6N HCl and the resulting yellow precipitate was filtered off. The aqueous mother liquor was extracted with EtOAc. During the extraction more yellow precipitate formed and was collected. The combined yellow solids were dried under vacuum and used without further purification (12.1 g, 59%).

reactant | 3-Ethyl 1,1-dimethyl 1,1,3-propanetricarboxylate | 103 mmol, 23.8 g | C(CCC(=O)OCC)(C(=O)OC)C(=O)OC | C10H16O6
reactant | (2E)-3-phenyl-2-propenimidamide | 68.4 mmol, 10.0 g | C1(=CC=CC=C1)/C=C/C(N)=N | C9H10N2
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 400 mL | CO | CH4O
solvent | MeOH | 143 mmol, 31.0 g | CO | CH4O
product | Methyl 3-{4-hydroxy-6-oxo-2-[(E)-2-phenylethenyl]-1,6-dihydro-5-pyrimidinyl}propanoate | OC=1N=C(NC(C1CCC(=O)OC)=O)\C=C\C1=CC=CC=C1 | C16H16N2O4
